Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___ Sr
 
Attending: ___.
 
Chief Complaint:
Episodes concerning for Seizure
 
Major Surgical or Invasive Procedure:
Long-term Video EEG monitoring

 
History of Present Illness:
Ms. ___ is a ___ woman
with a history of two prior generalized convulsions who presents
now with nearly daily episodes of abnormal sensation in her
abdomen.  She had her first seizures in ___, which was 
a
generalized convulsion following sleep deprivation on a long
flight.  That seizure lasted three to four minutes.  MRI and EEG
were both normal at that time.  She had a second event in ___,
which was unwitnessed but was heard by her husband as having 
some
loud bumps in the bathroom and she was quizzed when he found her
shortly thereafter.  She was initially started at that time on
Lamictal but had recently had that discontinued.  More recently,
for the last couple of weeks, she has had episodes that she says
occur almost every night that are characterized by a sense of
nausea or annoying in her stomach followed by a rising 
sensations
through her abdomen and chest followed by a sense of anxiety or
nervousness.  She has urinary incontinence with it every time. 
This sense of anxiety gradually progresses over 10 to 15 
minutes,
at which time it peaks and begins to subside over the hour.

In general, there are no convulsive movements with these
episodes, although apparently two nights ago, she did have some
whole body shaking without loss of consciousness.  She has
otherwise felt well recently with no fevers or chills, diarrhea,
constipation, nausea, vomiting, or chest pain.  She does not 
have
any diplopia, dysarthria, dysphagia, focal numbness, focal
weakness, or difficulty with bowel or bladder other than the
episodes of urinary incontinence.

 
Past Medical History:
- Seizure disorder
- Panic attacks
- Depression 
- Asthma
- Nephrolithiasis

 
Social History:
___
Family History:
- hypercholesterolemia
- kidney stones
- diabetes (paternal grandfather) 
A distant cousin has schizophrenia.  

 
Physical Exam:
PER THE ADMITTING RESIDENT (___):
Vitals: T:98.3 P:94 R:16 BP:110/70 SaO2:99%% 
General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no JVD or carotid bruits appreciated. No nuchal
rigidity 
Pulmonary: bilateral wheeze posteriorly
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted. 

Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes.  The pt. had 
good
knowledge of current events.  There was no apraxia or neglect. 

-Cranial Nerves: Olfaction not tested.  PERRL 5 to 4 mm and
brisk. VFF to confrontation.  There is no ptosis bilaterally.
Funduscopic exam revealed no papilledema, exudates, or
hemorrhages, normal venous pulsations. EOMI without nystagmus. 
Normal saccades. Facial sensation intact to pinprick. No facial
droop, facial musculature symmetric. Hearing intact to 
finger-rub
bilaterally.  Palate elevates symmetrically.  ___ strength in
trapezii and SCM bilaterally. Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No adventitious movements
noted. No asterixis noted. 
No pronator drift bilaterally. 

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    5    5  5    ___  ___  5    5     5    5 
R  5    5    5  5    ___  ___  5    5     5    5 

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally. 

-DTRs: 
  Bi Tri ___ Pat Ach 
L  ___    2   1 
R  ___    2   1 

Plantar response was flexor bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
___ WBC-6.2 RBC-4.08* HGB-12.2 HCT-34.7* MCV-85
___ GLUCOSE-91 UREA N-12 CREAT-0.7 SODIUM-142 POTASSIUM-4.9 
CHLORIDE-109* TOTAL CO2-27 ANION GAP-11
___ ASA-NEG ETHANOL-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG cocaine-NEG 
amphetmn-NEG mthdone-NEG
___ URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG 
KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-NEG
EEG (___):
IMPRESSION: This telemetry captured no pushbutton activations. 
Routine
sampling showed a 12 Hz posterior dominant rhythm with 
occasional
periods of bifrontal slowing and single episode of two sharp 
waves of
phase inversion at C4.
EEG (___):
IMPRESSION: This telemetry captured three pushbutton activations 
with
no epileptiform features associated. Routine sampling showed an 
11 Hz
well-organized posterior dominant rhythm during wakefulness. 
There were
no focal areas of prominent slowing and there were no 
epileptiform
features on routine sampling.
EEG (___):
IMPRESSION: This telemetry captured seven pushbutton activations 
over
four episodes. The second episode, which occurred at 19:57:44, 
showed
six to eight seconds of diffuse spike and slow wave discharges.
Clinically, the seizure was characterized by clearing the 
throat,
smiling slightly, and leaning head forward. There were no 
convulsions
or eye changes with this. A second seizure was detected by the 
seizure
detection program at 11:35:33 and consisted of 22 seconds of 
generalized
spike and slow wave discharges with a right fronto-temporal
predominance. Clinically, this event was similar to the other 
described
seizure with clearing of the throat, peering slightly downwards 
and
smiling. Routine sampling showed an 11 Hz somewhat poorly 
organized
background with occasional spikes at F4.
EEG (___):
IMPRESSION: This telemetry captured no pushbutton activations. 
Routine
sampling showed an 11.5 Hz background. Spike detection programs 
showed
occasional right fronto-central spikes or polyspikes. There were 
no
seizures captured on this recording.
EEG (___):
IMPRESSION: There were a number of pushbutton events but they 
were all
for minor symptoms and were not associated with a clear change 
on EEG.
Routine and automated sampled EEG appeared to be within normal 
limits.
EEG (___):
IMPRESSION: This telemetry captured four pushbutton activations 
which
occurred for unclear circumstances. There were no electrographic
changes associated with these and no epileptiform features. 
Routine
sampling shows an 11.5 Hz posterior dominant rhythm with no 
areas of
prominent focal slowing and no epileptiform features.
ICTAL SPECT SCAN (___):
Small focus of increased tracer uptake in the superior deep 
right temporal lobe.
CT HEAD (___):
No intracranial hemorrhage or fracture.
CHEST X-RAY (___):
No acute cardiopulmonary process.
 

 
Brief Hospital Course:
Ms. ___ is a lovely ___ year-old right-handed woman with a past 
medical history including two generalized convulsions and recent 
episodes of nausea associated with a rising sensation in the 
abdomen and chest, nervousness, and urinary incontinence, who 
presented ___ for long-term monitoring and evaluation of 
these events.  The patient was admitted to the Epilepsy Service 
and Video EEG recording was performed over six days.

Investigative studies showed no evidence of contributory toxic, 
metabolic, or infectious processes.

At the time of admission, clonazepam was discontinued with the 
goal of precipitating and characterizing a typical episode.  
While telemetry did show occasional bifrontal slowing and two 
isolated sharp waves of phase reversal, there were no 
electrographic seizures in the first three days.  On ___, the 
patient experienced two brief (<30 seconds) clinical events 
consisting of a head tilt forward with smiling and throat 
clearing.  The EEG correlate demonstrated generalized spike and 
slow wave discharges with a right fronto-temporal predominance.  
There were no subsequent electrographic seizures in the course 
of the visit.

Sleep deprivation was encouraged in advance of an ictal SPECT 
scan on ___.  The study demonstrated increased tracer uptake in 
the superior deep right temporal lobe.  Collectively, the data 
were thought to support seizure as an explanation for the 
patient's presenting symptoms.  Accordingly, treatment with 
Brand Name ___ was initiated.  Clonazepam was 
re-started with a plan to taper the medication with concomitant 
increases in Lamictal. 

As the patient fell shortly before discharge, a non-contrast 
head CT was performed to ensure no injury.  There was no 
evidence of hemorrhage or other concerning changes.  At the time 
of discharge the patient was asymptomatic.

 
 
Medications on Admission:
ALBUTEROL SULFATE [PROAIR HFA] - 90 mcg HFA Aerosol
Inhaler - 2 spray inhalation q4hr as needed for asthma; Take 2
inhalations 10 min before exertion and other precipitating
factors
CLONAZEPAM - 0.5 mg Tablet - one-half Tablet(s) by mouth qam and
1 tab ___ qhs with additional 0.25mg qd prn as needed for anxiety
FLUOXETINE -  10 mg Tablet - 2 Tablet(s) by mouth daily
FOLIC ACID -  (Not Taking as Prescribed) - 1 mg Tablet - 4 
Tablet(s) by mouth daily
OXYBUTYNIN CHLORIDE - 10 mg Tab,Sust Rel Osmotic Push 24hr - 1 
Tab(s) by mouth daily as
needed for urinary incontinence
PNV COMB #2-IRON-FA-OMEGA 3 [DUET DHA PRENATAL] - 29 mg-1 mg-430 
mg Combo Pack - 1 Combo(s) by mouth daily
 
Discharge Medications:
Clonazepam 1 mg Tablet Sig: ___ Tablets ___ at bedtime for 2 
months: After achieving the target lamictal dose of 100 mg ___ 
twice daily for three days, please decrease the clonazepam to 
0.5 mg ___ at bedtime for three days before completely 
discontinuing the medication.
Disp:*60 Tablet(s)* Refills:*1*
Clonazepam 0.5 mg Tablet Sig: One (1) Tablet ___ at bedtime for 3 
days: After finishing the clonazepam 1 mg tablets, please take 
clonazepam 0.5 mg ___ at bedtime for three nights before 
completely discontinuing the medication. .
Disp:*3 Tablet(s)* Refills:*0*
Fluoxetine 10 mg Capsule Sig: Two (2) Capsule ___ DAILY (Daily).  

Lamotrigine 25 mg Tablet Sig: As Directed Tablet ___ DAILY 
(Daily): Please increase the lamictal by 25 mg every seven days 
until reaching a target dose of 100 mg ___ bid.
Disp:*240 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Temporal Lobe Epilepsy

 
Discharge Condition:
Stable.  Neurologic examination was normal on the day of 
discharge.

 
Discharge Instructions:
You were admitted to ___ for long-term telemetry monitoring to 
better characterize your seizures and optimize your 
anti-epileptic drug regimen.  While the specific symptom complex 
(GI distress, sweating, and urinary urgency+/- incontinence) 
that prompted your visit did not correspond with epileptiform 
discharges on video EEG monitoring, it is thought represent 
seizure activity.  Of note, telemetry did show seizure activity 
that corresponded with clinical episodes in which you lifted 
your right arm, coughed, and appeared distracted for about ten 
seconds.  The ictal spect scan was also helpful in identifying 
the right temproal lobe as a potential seizure focus.
* Please take lamictal 25 mg ___ daily for seven days.
* On ___, start taking lamictal 25 mg ___ twice daily for 
seven days.
* On ___ start taking lamictal 25 mg ___ morning and 50 
mg ___ every evening for seven days.
* On ___ start taking lamictal 50 mg by mouth twice daily 
for seven days.
* On ___ start taking lamictal 50 mg ___ every morning and 75 
mg ___ every evening for seven days.
* On ___, start taking lamictal 75 mg ___ twice daily for 
seven days.
* On ___, start taking lamictal 75 mg ___ every morning and 
100 mg ___ every evening for seven days.
* On ___ start lamictal 100 mg ___ twice daily.
* After you have taken lamictal 100 mg twice daily for a total 
of three days, it will be important to have a lamictal level 
measured, and the results faxed to Dr. ___ at 
___.
* Following three days on the target dose of lamictal 100 mg ___ 
twice daily (___), please adjust the clonazepam dose to 1 mg 
___ every night for three nights.
* Then decrease the clonazepam to 0.5 mg ___ every night for 
three nights before completely discontinuing the clonazepam.

* Please take all of the medications as prescribed.

* Please seek medical attention if you develop increasing 
seizure frequency or duration, changing seizure type, trouble 
speaking, difficulty walking, lightheadedness, chest discomfort, 
shortness of breath, loss of bowel or bladder function, or any 
other symptoms you find concerning.
 
Followup Instructions:
___